US07732461B2
(e) 7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2,3-dihydro-5(1H)-indolizinone
A solution of 3-[4-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-6-(methyloxy)-2-pyridinyl]-1-propanol (5.16 g, 16.59 mmol) in dichloromethane (250 ml) was treated with pyridine (2.94 ml, 36.47 mmol) and trifluoromethanesulfonic anhydride (3.1 ml, 19.88 mmol) and stirred at room temperature for 10 min before being treated with tetrabutylammonium iodide (30.61 g, 82.95 mmol) and stirred at room temperature for a further 4 h. Water was then added and the mixture was extracted three times with diethyl ether and the combined organic extracts washed again with water. The organic extracts were dried with magnesium sulphate and evaporated. The residue was chromatographed on silica eluting with 0-10% methanol in dichloromethane to give the desired product (3.93 g, 14.09 mmol)

reactant | 3-[4-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-6-(methyloxy)-2-pyridinyl]-1-propanol | 16.59 mmol, 5.16 g | CC(C)(C)[Si](OCC1=CC(=NC(=C1)OC)CCCO)(C)C | C16H29NO3Si
reactant | pyridine | 36.47 mmol, 2.94 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 19.88 mmol, 3.1 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Water | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium iodide | 82.95 mmol, 30.61 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2,3-dihydro-5(1H)-indolizinone | 14.09 mmol, 3.93 g | CC(C)(C)[Si](OCC1=CC(N2CCCC2=C1)=O)(C)C | C15H25NO2Si
